US09024032B2
A mixture of 2-amino-5-(benzyloxy)-1-(biphenyl-3-yl)pyridin-4(1H)-one (2.65 g, 7.19 mmol) and 10% Pd/C (230 mg) in EtOH (300 mL) was stirred under an H2 balloon for 2 h. After this time, LCMS indicated that the reaction was complete. After evacuation and purge with N2 (3×), the EtOH solution was warmed to 50° C. and stirred 1 h at 50° C. The warmed EtOH solution was filtered and the catalyst was washed with warmed EtOH (4×50 mL). The combined EtOH solution was concentrated to give 2-amino-1-(biphenyl-3-yl)-5-hydroxypyridin-4(1H)-one as slightly yellow solid. 1H NMR (500 MHz, DMSO): δ 7.81 (d, J=7.9 Hz, 1 H); 7.76 (d, J=7.7 Hz, 2 H); 7.71-7.59 (m, 2 H); 7.49 (t, J=7.6 Hz, 2 H); 7.43-7.37 (m, 2 H); 6.91 (s, 1 H); 5.66 (s, 2 H); 5.54 (s, 1 H). HRMS Calcd for (C17H14N2O2+H)+ 279.1128. Found 279.1128.

reactant | 2-amino-5-(benzyloxy)-1-(biphenyl-3-yl)pyridin-4(1H)-one | 7.19 mmol, 2.65 g | NC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)C=1C=C(C=CC1)C1=CC=CC=C1 | C24H20N2O2
solvent | EtOH | 300 mL | CCO | C2H6O
catalyst | Pd/C | 230 mg | [Pd] | Pd
product | 2-amino-1-(biphenyl-3-yl)-5-hydroxypyridin-4(1H)-one | NC=1N(C=C(C(C1)=O)O)C=1C=C(C=CC1)C1=CC=CC=C1 | C17H14N2O2
